US06903087B2
Step A. (10,11-Dihydro-5H-pyrrolo [2,1-c][1,4]benzodiazepin-10-yl)-(4-bromo-3-methyl-phenyl)-methanone
To a stirred mixture of 4-bromo-3-methyl benzoic acid (21.5 g, 100 mmol) and N,N-dimethylformamide (0.251 mL, 3.00 mmol) in anhydrous dichloromethane (200 mL) was added dropwise oxalyl chloride (9.16 mL, 105 mmol). The mixture was heated to reflux for 1.5 hours, then cooled to room temperature and the solvent evaporated. Fresh anhydrous dichloromethane (200 mL) was added and the resulting solution concentrated and the residue was dried in vacuo. The crude acid chloride thus obtained and 10,11-dihydro-5H-pyrrolo [2,1-c][1,4]benzodiazepine (17.5 g, 95.0 mmol) were combined in anhydrous dichloromethane (200 mL), and N,N-diisopropylethylamine (19.2 mL, 110 mmol) was added. After stirring at room temperature for 18 hours, the reaction mixture was washed with 1 N hydrochloric acid, 1 N sodium hydroxide and brine. The organic phase was dried over anhydrous magnesium sulfate, filtered and concentrated to afford the crude amide which was recrystallized from ethyl acetate to provide pale orange crystals (34.8 g) of the title compound, m.p.175-176° C.

reactant | 4-bromo-3-methyl benzoic acid | 100 mmol, 21.5 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | oxalyl chloride | 105 mmol, 9.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 10,11-dihydro-5H-pyrrolo [2,1-c][1,4]benzodiazepine | 95.0 mmol, 17.5 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 110 mmol, 19.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 3.00 mmol, 0.251 mL | CN(C=O)C | C3H7NO
product | (10,11-Dihydro-5H-pyrrolo [2,1-c][1,4]benzodiazepin-10-yl)-(4-bromo-3-methyl-phenyl)-methanone | 34.8 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC(=C(C=C1)Br)C | C20H17BrN2O
